US05900486
A mixture of 1.06 g of (1R,2R)-4-[2-[2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-[1,2,4]triazol-1-yl-propyl]thiazol-4-yl]benzonitrile and 1.1 g of 3,5-dimethyl-4-[(S)-N-tert-butoxycarbonylpyrrolidine-2-carbonyloxy]benzyl bromide, prepared from 3,5-dimethyl-4-hydroxybenzaldehyde in 3 steps, in 20 mL of acetonitrile was stirred for 15 h at reflux temperature and then concentrated. The residue was chromatographed on silica gel (Wakogel C-200, solvent: CH2Cl2 /MeOH=12/1) to give 1.92 g (94%y.) of 1-[(2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-(2,4-difluorophenyl)-2-hydroxybutyl]-4-[(S)-3,5-dimethyl-4-(N-tert-butoxycarbonylpyrrolidine-2-carbonyloxy)benzyl]-1H-[1,2,4]triazol-4-ium bromide as a white solid.

reactant | (1R,2R)-4-[2-[2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-[1,2,4]triazol-1-yl-propyl]thiazol-4-yl]benzonitrile | 1.06 g | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)C=1SC=C(N1)C1=CC=C(C#N)C=C1)(CN1N=CN=C1)O | C22H17F2N5OS
reactant | 3,5-dimethyl-4-[(S)-N-tert-butoxycarbonylpyrrolidine-2-carbonyloxy]benzyl bromide | 1.1 g | CC=1C=C(CBr)C=C(C1OC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)C | C19H26BrNO4
reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-[(2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-(2,4-difluorophenyl)-2-hydroxybutyl]-4-[(S)-3,5-dimethyl-4-(N-tert-butoxycarbonylpyrrolidine-2-carbonyloxy)benzyl]-1H-[1,2,4]triazol-4-ium bromide | 1.92 g | [Br-].C(#N)C1=CC=C(C=C1)C=1N=C(SC1)[C@@H]([C@@](CN1N=C[N+](=C1)CC1=CC(=C(C(=C1)C)OC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)C)(O)C1=C(C=C(C=C1)F)F)C | InChI=1S/C41H43F2N6O5S.BrH/c1-25-16-29(17-26(2)36(25)53-38(50)35-8-7-15-49(35)39(51)54-40(4,5)6)20-47-23-45-48(24-47)22-41(52,32-14-13-31(42)18-33(32)43)27(3)37-46-34(21-55-37)30-11-9-28(19-44)10-12-30;/h9-14,16-18,21,23-24,27,35,52H,7-8,15,20,22H2,1-6H3;1H/q+1;/p-1/t27-,35-,41+;/m0./s1
